### PR TITLE
feat: add bitblasting circuit for `BitVec.cpop`

### PR DESCRIPTION
**Pull request by luisacicolini**
This PR adds a bitblasting circuit for `BitVec.cpop` with a divide-and-conquer for a parallel-prefix-sum. 

This is the [most efficient circuit we could fine](https://docs.google.com/spreadsheets/d/1dJ5uUY4-eWIQmMjIui3H4U-wBxBxy-qYuqJZFZD1xvA/edit?usp=sharing), after comparing with Kernighan's algorithm and with the intuitive addition circuit.

### CODE REVIEW

**Comment by luisacicolini** [comment]
changelog-library

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Basic.lean [hunk 1]
```diff
@@ -278,6 +286,7 @@ instance decEq : DecidableEq (BVExpr w) := fun l r =>
           if h : lidx = ridx then .isTrue (by simp [h]) else .isFalse (by simp [h])
         | .const .. | .extract .. | .bin .. | .un .. | .append .. | .replicate .. | .shiftLeft ..
         | .shiftRight .. | .arithShiftRight .. => .isFalse (by simp)
+
```
Comment (luisacicolini) [inline src/Std/Tactic/BVDecide/Bitblast/BVExpr/Basic.lean]:
```suggestion
```

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Basic.lean [hunk 2]
```diff
@@ -330,6 +338,7 @@ instance decEq : DecidableEq (BVExpr w) := fun l r =>
             .isFalse (by simp; omega)
         | .const .. | .var .. | .extract .. | .bin .. | .un .. | .replicate .. | .shiftLeft ..
         | .shiftRight .. | .arithShiftRight .. => .isFalse (by simp)
+
```
Comment (luisacicolini) [inline src/Std/Tactic/BVDecide/Bitblast/BVExpr/Basic.lean]:
```suggestion
```

File: tests/lean/run/bv_decide_rewriter.lean [hunk 3]
```diff
@@ -679,6 +679,12 @@ example {x : BitVec 8} (h : x = 0#8) : x.ctz = x.clz := by bv_decide
 example {x : BitVec 8} (h : ¬ x = 0#8) : (x <<< 1).ctz = x.ctz + 1 := by bv_decide
 example {x : BitVec 8} : x.ctz ≤ 8 := by bv_decide
 
+-- hAdd
```
Comment (bollu) [inline tests/lean/run/bv_decide_rewriter.lean]:
```suggestion
-- cpop
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 4]
```diff
@@ -2833,7 +2839,7 @@ theorem toNat_shiftLeft_or_toNat_lt_two_pow_add {m n : Nat} (x : BitVec m) (y :
 
 @[simp] theorem zero_width_append (x : BitVec 0) (y : BitVec v) : x ++ y = y.cast (by omega) := by
   ext i ih
-  simp [getElem_append, show i < v by omega]
+  simp
```
Comment (luisacicolini) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
  simp [getElem_append, show i < v by omega]
```

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Cpop.lean [hunk 5]
```diff
@@ -0,0 +1,289 @@
...
+      ⟧ = (BitVec.cpop x).getLsbD idx := by
+    generalize hgen : blastCpop aig xc = res
+    rw [BitVec.cpop_eq_cpopRec]
+    unfold blastCpop at hgen
+    split at hgen
+    · case _ h1 =>
+      simp only at hgen
+      rw [← hgen]
+      unfold BitVec.cpopRec
+      simp [show 1 < w by omega]
```
Comment (bollu) [inline src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Cpop.lean]: nonterminal simp

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean [hunk 6]
```diff
@@ -0,0 +1,290 @@
...
+    apply Nat.le_trans hext htree
+  · split
+    · simp
+    · simp
+
+theorem blastCpop_decl_eq (aig : AIG α) (input : AIG.RefVec aig w) :
+    ∀ (idx : Nat) h1 h2, (blastCpop aig input).aig.decls[idx]'h1 = aig.decls[idx]'h2 := by
+  unfold blastCpop
+  split
+  · simp
```
Comment (bollu) [inline src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean]: nonterminal simp

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean [hunk 7]
```diff
@@ -0,0 +1,290 @@
...
+    ∀ (idx : Nat) (h1) (h2),
+      (blastExtractAndExtendBit aig x start).aig.decls[idx]'h2 = aig.decls[idx]'h1 := by
+  generalize hres : blastExtractAndExtendBit aig x start = res
+  unfold blastExtractAndExtendBit at hres
+  dsimp only at hres
+  rw [← hres]
+  intros
+  rw [AIG.LawfulVecOperator.decl_eq (f := blastZeroExtend)]
+  rw [AIG.LawfulVecOperator.decl_eq (f := blastExtract)]
+  (expose_names; exact h1)
```
Comment (bollu) [inline src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean]: `expose_names` is evil. Refactor to not need it.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 8]
```diff
@@ -2773,6 +2773,12 @@ theorem msb_append {x : BitVec w} {y : BitVec v} :
   rw [getElem_append] -- Why does this not work with `simp [getElem_append]`?
   simp
 
+@[simp] theorem append_of_zero_width (x : BitVec w) (y : BitVec v) (h : w = 0): (x ++ y) = y.cast (by simp [h]) := by
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
@[simp] theorem append_eq_self_of_eq_zero (x : BitVec w) (y : BitVec v) (h : w = 0): (x ++ y) = y.cast (by simp [h]) := by
```

Or something like that? do we use the naming convention `zero_width` anywhere else?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 9]
```diff
@@ -2962,6 +2968,15 @@ theorem extractLsb'_append_extractLsb' {x : BitVec (w + len)} :
   · rw [← getLsbD_eq_getElem]
   · simp [show len + (i - len) = i by omega, ← getLsbD_eq_getElem]
 
+theorem append_extractLsb'_of_lt {x : BitVec (x_len * w)} (ha : 0 < x_len) :
+    (x.extractLsb' ((x_len - 1) * w) w ++ x.extractLsb' 0 ((x_len - 1) * w)).cast
+    (by rw [Nat.sub_mul, ← Nat.add_sub_assoc (by exact Nat.mul_le_mul_right w ha)]; omega) = x := by
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean]: Don't write an explicit proof, make the `cast` hypothesis an argument to the theorem.

Also, should the name be `extractLsb'_append_extractLsb'_eq_self` or sth?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 10]
```diff
@@ -2999,6 +3014,24 @@ theorem extractLsb'_append_extractLsb'_eq_extractLsb' {x : BitVec w} (h : start
   congr 1
   omega
 
+theorem extractLsb'_append_of_lt {x : BitVec (k * w)} {y : BitVec w} (hlt : i < k):
+    extractLsb' (i * w) w ((y ++ x).cast (m := (k + 1) * w) (by simp [Nat.add_mul, Nat.add_comm])) = extractLsb' (i * w) w x := by
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean]: move the `cast` argument to a hyp?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 11]
```diff
@@ -2999,6 +3014,24 @@ theorem extractLsb'_append_extractLsb'_eq_extractLsb' {x : BitVec w} (h : start
...
+  by_cases hw0 : w = 0
+  · subst hw0
+    simp
+  · have : i * w ≤ (k - 1) * w := Nat.mul_le_mul_right w (by omega)
+    have h' : i * w + j < (k - 1 + 1) * w := by simp [Nat.add_mul]; omega
+    rw [Nat.sub_one_add_one (by omega)] at h'
+    omega
+
+theorem extractLsb'_append_of_eq {x : BitVec (k * w)} {y : BitVec w} (heq : i = k) :
+    extractLsb' (i * w) w ((y ++ x).cast (m := (k + 1) * w) (by simp [Nat.add_mul, Nat.add_comm])) = y := by
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean]: move the `cast` argument to a hyp?

File: src/Init/Data/BitVec/Bitblast.lean [hunk 12]
```diff
@@ -2392,4 +2392,350 @@ theorem fastUmulOverflow (x y : BitVec w) :
...
+  · ext k hk
+    have := Nat.mul_le_mul_right (n := w) (k := len) (m := i) (by omega)
+    simp only [cast_ofNat, getElem_extractLsb', truncate_eq_setWidth, getElem_setWidth,
+      getLsbD_extractLsb', Nat.lt_one_iff]
+    rw [getLsbD_of_ge, getLsbD_of_ge]
+    · simp
+    · omega
+    · omega
+
+private theorem hcast_proof (ha : 0 < x_len) :
```
Comment (bollu) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
private theorem add_sub_one_mul_eq_mul (ha : 0 < x_len) :
```

I know I suggested `hcast_proof`, but I mean it as a placeholder. Sorry for not being clearer.

File: tests/lean/run/bv_decide_rewriter.lean (hunk 3 above)
Comment (luisacicolini) [reply tests/lean/run/bv_decide_rewriter.lean]: done

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Cpop.lean (hunk 5 above)
Comment (luisacicolini) [reply src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Cpop.lean]: done

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean (hunk 6 above)
Comment (luisacicolini) [reply src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean]: done

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean (hunk 7 above)
Comment (luisacicolini) [reply src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean]: done

File: src/Init/Data/BitVec/Lemmas.lean (hunk 8 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: yes, it is used in [append](https://leanprover-community.github.io/mathlib4_docs/Init/Data/BitVec/Lemmas.html#BitVec.append_zero_width) so I used it here.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 9 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done. for the name, I don't think so - both are used but I think the version without the `eq` is more used ?

File: src/Init/Data/BitVec/Lemmas.lean (hunk 10 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done

File: src/Init/Data/BitVec/Lemmas.lean (hunk 11 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: done

File: src/Init/Data/BitVec/Bitblast.lean (hunk 12 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: fixed

File: src/Init/Data/BitVec/Bitblast.lean [hunk 13]
```diff
@@ -2392,4 +2392,387 @@ theorem fastUmulOverflow (x y : BitVec w) :
...
+     x.addRecAux n acc = x.addRecAux n 0#w + acc := by
+  induction n generalizing acc
+  · case zero =>
+    simp
+  · case succ n ihn =>
+    simp only [addRecAux_succ, BitVec.zero_add, ihn (acc := extractLsb' (n * w) w x), BitVec.add_assoc,
+      ihn (acc := acc + extractLsb' (n * w) w x), BitVec.add_right_inj]
+    rw [BitVec.add_comm (x := acc)]
+
+private theorem extractLsb'_addRecAux_of_le {x : BitVec (x_len * w)} (h : r ≤ k):
```
Comment (bollu) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
private theorem addRecAux_extractLsb'_of_le {x : BitVec (x_len * w)} (h : r ≤ k):
```

Aren't we calling `addRecAux` on `extractLsb'`?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 14]
```diff
@@ -2962,6 +2968,15 @@ theorem extractLsb'_append_extractLsb' {x : BitVec (w + len)} :
   · rw [← getLsbD_eq_getElem]
   · simp [show len + (i - len) = i by omega, ← getLsbD_eq_getElem]
 
+theorem append_extractLsb'_of_lt {x : BitVec (x_len * w)}
+    (hcast : w + (x_len - 1) * w = x_len * w):
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean]: Is there a default proof available for `hcast`?
```suggestion
    (hcast : w + (x_len - 1) * w = x_len * w := by grind [Nat.sub_mul]):
```

I would expect the above `grind` annotation, or something like it, to automatically close the lemma?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 15]
```diff
@@ -2999,6 +3014,26 @@ theorem extractLsb'_append_extractLsb'_eq_extractLsb' {x : BitVec w} (h : start
   congr 1
   omega
 
+theorem extractLsb'_append_of_lt {x : BitVec (k * w)} {y : BitVec w} (hlt : i < k)
+    (hcast : w + k * w = (k + 1) * w) :
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean]: Is there a default proof available for hcast?
```suggestion
theorem extractLsb'_append_of_lt {x : BitVec (k * w)} {y : BitVec w} (hlt : i < k)
    (hcast : w + k * w = (k + 1) * w := by grind [Nat.add_mul]) :
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 16]
```diff
@@ -2999,6 +3014,26 @@ theorem extractLsb'_append_extractLsb'_eq_extractLsb' {x : BitVec w} (h : start
...
+  by_cases hw0 : w = 0
+  · subst hw0
+    simp
+  · have : i * w ≤ (k - 1) * w := Nat.mul_le_mul_right w (by omega)
+    have h' : i * w + j < (k - 1 + 1) * w := by simp [Nat.add_mul]; omega
+    rw [Nat.sub_one_add_one (by omega)] at h'
+    omega
+
+theorem extractLsb'_append_of_eq {x : BitVec (k * w)} {y : BitVec w} (heq : i = k)
+    (hcast : w + k * w = (k + 1) * w) :
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean]:
```suggestion
    (hcast : w + k * w = (k + 1) * w := by grind[Nat.add_mul]) :
```

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean [hunk 17]
```diff
@@ -0,0 +1,290 @@
...
+  if hlt : 1 < l_length  then
+    have hcastZero : 0 = 0 / 2 * w := by omega
+    let initAcc := blastConst (aig := aig) (w := 0) (val := 0)
+    let res := blastCpopLayer aig 0 l (hcastZero▸initAcc) (by omega)
+    let aig := res.aig
+    let new_layer := res.vec
+    blastCpopTree (aig := aig) (l := new_layer) (by omega)
+  else
+    have hcast : l_length * w = w := by simp [show l_length = 1 by omega]
+    ⟨aig, hcast▸l⟩
```
Comment (bollu) [inline src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean]: I'm a little surprised that the AIG does not have a `AIG.RefVec.cast` and we need to use Lean's cast here.

**Review by bollu — COMMENTED** [review]
Overall LGTM. I left some naming / stylistic questions in the APIs developed in Lemmas and Bitblast. I didn't read over the proofs in the AIG too carefully, I but they look right to me structurally: They have lemmas for denoting each component, and they rewrite away the AIG junk, and finally apply the denotation.

File: src/Init/Data/BitVec/Bitblast.lean (hunk 13 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: done

File: src/Init/Data/BitVec/Lemmas.lean (hunk 14 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: fixed in another way

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean (hunk 17 above)
Comment (luisacicolini) [reply src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean]: `cast` for `RefVec` is the one that casts a refvec from `aig1` to `aig2`, in this case we are only concerned with `RefVec.refs`, without changing the aig referencing.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 15 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: fixed in another way

File: src/Init/Data/BitVec/Lemmas.lean (hunk 16 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: fixed in another way

File: src/Init/Data/BitVec/Bitblast.lean [hunk 18]
```diff
@@ -2393,4 +2393,394 @@ theorem fastUmulOverflow (x y : BitVec w) :
...
+  match hwi : w - k with
+  | 0 => acc.cast (by simp [show w = k by omega])
+  | n' + 1 =>
+    let acc' := extractAndExtendBit k len x ++ acc
+    extractAndExtendAux (k + 1) len x (acc'.cast (by simp [Nat.add_mul]; omega)) (by omega)
+
+/-- We instantiate `extractAndExtendAux` to extend each bit to `len`, extending
+  each bit in `x` to have width `w` and returning a `BitVec (w * w)`. -/
+def extractAndExtend (len : Nat) (x : BitVec w) : BitVec (w * len) :=
+    extractAndExtendAux 0 len x ((0#0).cast (by simp)) (by omega)
```
Comment (hargoniX) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
  extractAndExtendAux 0 len x ((0#0).cast (by simp)) (by omega)
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 19]
```diff
@@ -2393,4 +2393,394 @@ theorem fastUmulOverflow (x y : BitVec w) :
...
+
+/--
+  Construct a layer of the parallel-prefix-sum tree by summing two-by-two all the
+  `w`-long words in `old_layer`, returning a bitvector containing `(old_length + 1) / 2`
+  flattened `w`-long words, each resulting from an addition.
+-/
+def cpopLayer {w iter_num : Nat}
```
Comment (hargoniX) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
def cpopLayer {w iterNum : Nat}
```
snake case is generally reserved for proof-stuff. Similar issues below.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 20]
```diff
@@ -2393,4 +2393,394 @@ theorem fastUmulOverflow (x y : BitVec w) :
...
+  (old_layer : BitVec (old_length * w)) (new_layer : BitVec (iter_num * w))
+  (hold : 2 * (iter_num - 1) < old_length) : BitVec (((old_length + 1)/2) * w) :=
```
Comment (hargoniX) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
    (old_layer : BitVec (old_length * w)) (new_layer : BitVec (iter_num * w))
    (hold : 2 * (iter_num - 1) < old_length) : BitVec (((old_length + 1)/2) * w) :=
```
Similar style issues around indentation etc. below, won't explicitly point out further.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 21]
```diff
@@ -2393,4 +2393,394 @@ theorem fastUmulOverflow (x y : BitVec w) :
...
+    have hcast : w + iter_num * w = (iter_num + 1) * w := by simp [Nat.add_mul]; omega
+    cpopLayer old_layer (new_layer'.cast hcast) (by omega)
+termination_by old_length - (iter_num * 2)
+
+/--
+  Given a `BitVec (x_len * w)` of `x_len` flattened `w`-long words,
+  construct a binary tree that sums two-by-two the `w`-long words in the previous layer,
+  ultimately returning a single `w`-long words corresponding to the whole addition.
+-/
+def cpopTree (l : BitVec (x_len * w)) : BitVec (1 * w) :=
```
Comment (hargoniX) [inline src/Init/Data/BitVec/Bitblast.lean]: This return type seems a bit sad? Could we not have it be just `BitVec w`. The only thing that happens is that it gets casted below anyways.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 22]
```diff
@@ -2393,4 +2393,394 @@ theorem fastUmulOverflow (x y : BitVec w) :
...
+  Given flattened bitvector `x : BitVec w` and a length `l : Nat`,
+  construct a parallel prefix sum circuit adding each available `l`-long word in `x`.
+-/
+def cpopRec (x : BitVec w) : BitVec w :=
+  if hw : 1 < w then
+    let extendedBits := x.extractAndExtend w
+    (cpopTree extendedBits).cast (by simp)
+  else
+    if hw' : 0 < w then x
+    else 0#w
```
Comment (hargoniX) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
  else if hw' : 0 < w then
    x
  else
    0#w
```
maybe?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 23]
```diff
@@ -2786,6 +2786,12 @@ theorem msb_append {x : BitVec w} {y : BitVec v} :
   rw [getElem_append] -- Why does this not work with `simp [getElem_append]`?
   simp; rfl
 
+@[simp] theorem append_of_zero_width (x : BitVec w) (y : BitVec v) (h : w = 0) : (x ++ y) = y.cast (by simp [h]) := by
```
Comment (hargoniX) [inline src/Init/Data/BitVec/Lemmas.lean]: I wonder if this introduces noticeable performance regressions? After all it is going to start a proof search for`w = 0` for *every* BitVec concatenation.

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Cpop.lean [hunk 24]
```diff
@@ -0,0 +1,280 @@
+/-
+Copyright (c) 2025 Lean FRO, LLC. All rights reserved.
```
Comment (hargoniX) [inline src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Cpop.lean]: Wrong organisation :)

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean [hunk 25]
```diff
@@ -0,0 +1,290 @@
+/-
+Copyright (c) 2025 Lean FRO, LLC. All rights reserved.
```
Comment (hargoniX) [inline src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean]: Wrong organisation :)

File: src/Init/Data/BitVec/Bitblast.lean [hunk 26]
```diff
@@ -2393,4 +2393,394 @@ theorem fastUmulOverflow (x y : BitVec w) :
...
         omega
 
+/-! ### Population Count -/
+
+/-- Extract the `k`-th bit from `x` and extend it to have length `len`. -/
+def extractAndExtendBit (idx len : Nat) (x : BitVec w) : BitVec len :=
+  BitVec.zeroExtend len (BitVec.extractLsb' idx 1 x)
+
+
+/-- Recursively extract one bit at a time and extend it to width `w` -/
```
Comment (hargoniX) [inline src/Init/Data/BitVec/Bitblast.lean:2403]: Given that this entire machinery is never actually executed and not even the foundation but a proof tool for bitblasting `BitVec.cpop` you could have probably gotten away by using `Vector len (BitVec w)` here and just using all of the infrastructure around `Vector.foldl`? A bit unclear how that would've played out in proving the bitblasting circuits but the definitions here would probably be trivial.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 27]
```diff
@@ -2393,4 +2393,394 @@ theorem fastUmulOverflow (x y : BitVec w) :
...
+private def addRecAux (x : BitVec (l * w)) (rem : Nat) (acc : BitVec w) : BitVec w :=
+  match rem with
+  | 0 => acc
+  | n + 1 => x.addRecAux n (acc + x.extractLsb' (n * w) w)
+
+/-- Recursive addition of the elements in a flattened bitvec. -/
+private def addRec (x : BitVec (l * w)) : BitVec w := addRecAux x l 0#w
+
+theorem getLsbD_extractAndExtendBit {x : BitVec w} :
+    (extractAndExtendBit k len x).getLsbD i = (decide (i = 0) && (0 < len) && x.getLsbD k) := by
```
Comment (hargoniX) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
    (extractAndExtendBit k len x).getLsbD i = (decide (i = 0) && decide (0 < len) && x.getLsbD k) := by
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 28]
```diff
@@ -2393,4 +2393,394 @@ theorem fastUmulOverflow (x y : BitVec w) :
...
+private theorem extractAndExtendAux_zero {k len : Nat} {x : BitVec w} {acc : BitVec (k * len)} (heq : w = k) :
+    extractAndExtendAux k len x acc (by omega) = acc.cast (by simp [heq]) := by
+  unfold extractAndExtendAux
+  split
+  · simp
+  · omega
+
+private theorem extractLsb'_extractAndExtendAux
+    {k len : Nat} (x : BitVec w) (acc : BitVec (k * len)) (hle : k ≤ w)
+    (hacc : ∀ i (_ : i < k), acc.extractLsb' (i * len) len = (x.extractLsb' i 1).setWidth len) :
```
Comment (hargoniX) [inline src/Init/Data/BitVec/Bitblast.lean]: Can this just be an ordinary implication? There is no proof carrying operations on the rhs right? The same can be asked for several theorems below this one.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 29]
```diff
@@ -2393,4 +2393,394 @@ theorem fastUmulOverflow (x y : BitVec w) :
...
+  match rem with
+  | 0 => acc
+  | n + 1 => x.addRecAux n (acc + x.extractLsb' (n * w) w)
+
+/-- Recursive addition of the elements in a flattened bitvec. -/
+private def addRec (x : BitVec (l * w)) : BitVec w := addRecAux x l 0#w
+
+theorem getLsbD_extractAndExtendBit {x : BitVec w} :
+    (extractAndExtendBit k len x).getLsbD i = (decide (i = 0) && (0 < len) && x.getLsbD k) := by
+  simp [extractAndExtendBit]
```
Comment (hargoniX) [inline src/Init/Data/BitVec/Bitblast.lean]: Not in simp nf

File: src/Init/Data/BitVec/Bitblast.lean [hunk 30]
```diff
@@ -2393,4 +2393,394 @@ theorem fastUmulOverflow (x y : BitVec w) :
...
+@[simp]
+private theorem extractAndExtendAux_zero {k len : Nat} {x : BitVec w} {acc : BitVec (k * len)} (heq : w = k) :
+    extractAndExtendAux k len x acc (by omega) = acc.cast (by simp [heq]) := by
+  unfold extractAndExtendAux
+  split
+  · simp
+  · omega
+
+private theorem extractLsb'_extractAndExtendAux
+    {k len : Nat} (x : BitVec w) (acc : BitVec (k * len)) (hle : k ≤ w)
```
Comment (hargoniX) [inline src/Init/Data/BitVec/Bitblast.lean]: I'm generally a bit confused by the decisions in line breaks after theorem names. For example, in 2476 you break the 100 column limit that we usually stick to without any line breaks. Then in this theorem you make a line break right after the name, below it's mixed (which would be what we usually do) etc.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 31]
```diff
@@ -2393,4 +2393,394 @@ theorem fastUmulOverflow (x y : BitVec w) :
...
+  split
+  · by_cases hi : i < iter_num
+    · simp only [extractLsb'_cast]
+      apply proof_addition
+      exact hi
+    · ext j hj
+      have : iter_num * w ≤ i * w := by refine mul_le_mul_right w (by omega)
+      have : old_length * w ≤ (2 * i) * w := by refine mul_le_mul_right w (by omega)
+      have : old_length * w ≤ (2 * i + 1) * w := by refine mul_le_mul_right w (by omega)
+      simp [show iter_num * w ≤ i * w + j by omega]
```
Comment (hargoniX) [inline src/Init/Data/BitVec/Bitblast.lean]: Not in simpnf. Also, why do we need two simp invocations here? Can't it just be one?

File: src/Init/Data/BitVec/Bitblast.lean [hunk 32]
```diff
@@ -2393,4 +2393,394 @@ theorem fastUmulOverflow (x y : BitVec w) :
...
+    (old_layer.cpopLayer new_layer hold).getLsbD k =
+      (extractLsb' (2 * ((k - k % w) / w) * w) w old_layer +
+        extractLsb' ((2 * ((k - k % w) / w) + 1) * w) w old_layer).getLsbD (k % w) := by
+  by_cases hw0 : w = 0
+  · subst hw0
+    simp
+  · simp only [←
+      extractLsb'_cpopLayer (old_layer := old_layer) (new_layer := new_layer) (hold := by omega)
+        (proof_addition := proof_addition),
+    Nat.mod_lt (x := k) (y := w) (by omega), getLsbD_eq_getElem, getElem_extractLsb']
```
Comment (hargoniX) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
      Nat.mod_lt (x := k) (y := w) (by omega), getLsbD_eq_getElem, getElem_extractLsb']
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 33]
```diff
@@ -2393,4 +2393,394 @@ theorem fastUmulOverflow (x y : BitVec w) :
...
+    congr
+    by_cases hmod : k % w = 0
+    · rw [hmod, Nat.sub_zero, Nat.add_zero, Nat.div_mul_cancel (by omega)]
+    · rw [Nat.div_mul_cancel (by exact dvd_sub_mod k), Nat.sub_add_cancel (by exact mod_le k w)]
+
+@[simp]
+private theorem addRecAux_zero {x : BitVec (l * w)} {acc : BitVec w}:
+    x.addRecAux 0 acc = acc := rfl
```
Comment (hargoniX) [inline src/Init/Data/BitVec/Bitblast.lean]:
```suggestion
private theorem addRecAux_zero {x : BitVec (l * w)} {acc : BitVec w} :
  x.addRecAux 0 acc = acc := rfl
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 34]
```diff
@@ -2393,4 +2393,394 @@ theorem fastUmulOverflow (x y : BitVec w) :
...
+
+@[simp]
+private theorem addRecAux_succ {x : BitVec (l * w)} {n : Nat} {acc : BitVec w} :
+    x.addRecAux (n + 1) acc = x.addRecAux n (acc + extractLsb' (n * w) w x) := rfl
```
Comment (hargoniX) [inline src/Init/Data/BitVec/Bitblast.lean:2589]:
```suggestion
private theorem addRecAux_succ {x : BitVec (l * w)} {n : Nat} {acc : BitVec w} :
  x.addRecAux (n + 1) acc = x.addRecAux n (acc + extractLsb' (n * w) w x) := rfl
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 35]
```diff
@@ -2393,4 +2393,394 @@ theorem fastUmulOverflow (x y : BitVec w) :
...
+  rw [← Nat.succ_mul]
+  exact mul_le_mul_right b h
+
+/--
+  The recursive addition of `w`-long words on two flattened bitvectors `x` and `y` (with different
+  number of words `x_len` and `y_len`, respectively) returns the same value, if we can prove
+  that each `w`-long word in `x` results from the addition of two `w`-long words in `y`,
+  using exactly all `w`-long words in `y`.
+-/
+private theorem addRecAux_eq_of
```
Comment (hargoniX) [inline src/Init/Data/BitVec/Bitblast.lean]: This one seems quite involved. Did you check whether there is a simpler way to get here?

File: src/Init/Data/BitVec/Bitblast.lean [hunk 36]
```diff
@@ -2393,4 +2393,394 @@ theorem fastUmulOverflow (x y : BitVec w) :
...
+  Extracting a bit from a `BitVec.extractAndExtend` is the same as extracting a bit
+  from a zero-extended bit at a certain position in the original bitvector.
+-/
+theorem getLsbD_extractAndExtend {x : BitVec w} (hv : 0 < v):
+    (BitVec.extractAndExtend v x).getLsbD k =
+    (BitVec.extractAndExtendBit ((k - (k % v)) / v) v x).getLsbD (k % v):= by
+  rw [← getLsbD_extractAndExtend_of_lt (by exact mod_lt k hv)]
+  congr
+  by_cases hmod : k % v = 0
+  · simp [hmod]
```
Comment (hargoniX) [inline src/Init/Data/BitVec/Bitblast.lean]: Not in simp nf

File: src/Init/Data/BitVec/Bitblast.lean [hunk 37]
```diff
@@ -2393,4 +2393,394 @@ theorem fastUmulOverflow (x y : BitVec w) :
         simp [← Nat.pow_add, show w + 1 - (k - 1) + k = w + 1 + 1 by omega] at this
         omega
 
+/-! ### Population Count -/
+
+/-- Extract the `k`-th bit from `x` and extend it to have length `len`. -/
```
Comment (hargoniX) [inline src/Init/Data/BitVec/Bitblast.lean:2398]: Referring back to our meeting last Friday, the general plan here is to have eventually replace basically all of the below code with something around folds right?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 38]
```diff
@@ -3013,6 +3019,33 @@ theorem extractLsb'_append_extractLsb'_eq_extractLsb' {x : BitVec w} (h : start
...
+  simp only [getElem_cast, getElem_append, getElem_extractLsb', Nat.zero_add, dite_eq_ite]
+  rw [← getLsbD_eq_getElem, ite_eq_left_iff, Nat.not_lt]
+  intros
+  simp only [show (x_len - 1) * w + (i - (x_len - 1) * w) = i by omega]
+
+
+theorem extractLsb'_append_of_lt {x : BitVec (k * w)} {y : BitVec w} (hlt : i < k) :
+    extractLsb' (i * w) w ((y ++ x).cast hcast) = extractLsb' (i * w) w x := by
+  ext j hj
+  simp [← getLsbD_eq_getElem, getLsbD_append, hj]
```
Comment (hargoniX) [inline src/Init/Data/BitVec/Lemmas.lean]: simpnf

File: src/Init/Data/BitVec/Lemmas.lean [hunk 39]
```diff
@@ -3013,6 +3019,33 @@ theorem extractLsb'_append_extractLsb'_eq_extractLsb' {x : BitVec w} (h : start
...
+    (x.extractLsb' ((x_len - 1) * w) w ++ x.extractLsb' 0 ((x_len - 1) * w)).cast hcast = x := by
+  ext i hi
+  simp only [getElem_cast, getElem_append, getElem_extractLsb', Nat.zero_add, dite_eq_ite]
+  rw [← getLsbD_eq_getElem, ite_eq_left_iff, Nat.not_lt]
+  intros
+  simp only [show (x_len - 1) * w + (i - (x_len - 1) * w) = i by omega]
+
+
+theorem extractLsb'_append_of_lt {x : BitVec (k * w)} {y : BitVec w} (hlt : i < k) :
+    extractLsb' (i * w) w ((y ++ x).cast hcast) = extractLsb' (i * w) w x := by
```
Comment (hargoniX) [inline src/Init/Data/BitVec/Lemmas.lean]: Generally speaking theorems with `cast` on their lhs tend to worry me a bit. In particular because we have ` (h : n = n) (x : BitVec n) : BitVec.cast h x = x` In our `simp` set so ground instances of `BitVec` are often going to simplify away `BitVec.cast`, making the lhs of these kinds of theorems useless.

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean [hunk 40]
```diff
@@ -0,0 +1,290 @@
...
+namespace Std.Tactic.BVDecide
+
+open Std.Sat
+
+variable [Hashable α] [DecidableEq α]
+
+namespace BVExpr
+namespace bitblast
+
+/-- We extract a single bit in position `start` and extend it to haev width `w`-/
```
Comment (hargoniX) [inline src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean]:
```suggestion
/-- We extract a single bit in position `start` and extend it to have width `w`-/
```

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean [hunk 41]
```diff
@@ -0,0 +1,290 @@
...
+public import Std.Tactic.BVDecide.Bitblast.BVExpr.Circuit.Impl.Operations.Append
+public import Std.Tactic.BVDecide.Bitblast.BVExpr.Circuit.Impl.Operations.ZeroExtend
+public import Std.Sat.AIG.If
+
+import Init.Omega
+
+@[expose] public section
+
+/-!
+This module contains the implementation of a bitblaster for `BitVec.hAdd`.
```
Comment (hargoniX) [inline src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean]: I don't think so

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean [hunk 42]
```diff
@@ -0,0 +1,290 @@
...
+
+variable [Hashable α] [DecidableEq α]
+
+namespace BVExpr
+namespace bitblast
+
+/-- We extract a single bit in position `start` and extend it to haev width `w`-/
+def blastExtractAndExtendBit (aig : AIG α) (x : AIG.RefVec aig w) (start : Nat) : AIG.RefVecEntry α w :=
+  -- extract 1 bit starting from start
+  let targetExtract : ExtractTarget aig 1 := {vec := x, start := start}
```
Comment (hargoniX) [inline src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean]: Are the type annotations here necessary? Also we usually do  `{ vec := x, start := start }` or maybe even just `{ vec := x, start }`. But I think angle brackets are the style that I used in all of the other files right? Same remarks apply for the rest of the file.

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean [hunk 43]
```diff
@@ -0,0 +1,290 @@
...
+    let acc := acc.cast (aig2 := aigRes) this
+    let x := x.cast (aig2 := aigRes) this
+    let acc := acc.append bv
+    have hcast : w * (idx + 1) = w * idx + w := by simp [Nat.mul_add]
+    have acc := hcast▸acc
+    blastextractAndExtend (aigRes) (idx + 1) (x := x) (acc := acc) (by omega)
+  else
+    have : idx = w := by omega
+    have hcast : w * idx = w * w := by rw [this]
+    ⟨aig, hcast▸acc⟩
```
Comment (hargoniX) [inline src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean]:
```suggestion
    ⟨aig, hcast ▸ acc⟩
```

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean [hunk 44]
```diff
@@ -0,0 +1,290 @@
...
+  if hidx : idx < w then
+    let res := blastExtractAndExtendBit aig x idx
+    let aigRes := res.aig
+    let bv := res.vec
+    have := extractAndExtendBit_le_size aig x idx
+    let acc := acc.cast (aig2 := aigRes) this
+    let x := x.cast (aig2 := aigRes) this
+    let acc := acc.append bv
+    have hcast : w * (idx + 1) = w * idx + w := by simp [Nat.mul_add]
+    have acc := hcast▸acc
```
Comment (hargoniX) [inline src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean]:
```suggestion
    have acc := hcast ▸ acc
```

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean [hunk 45]
```diff
@@ -0,0 +1,290 @@
...
+    apply AIG.LawfulVecOperator.lt_size_of_lt_aig_size (f := blastZeroExtend)
+    apply AIG.LawfulVecOperator.lt_size_of_lt_aig_size (f := blastExtract)
+    omega
+  · simp [← hres]
+
+/-- Given a vector of references belonging to the same AIG `oldParSum`,
+  we create a node to add the `curr`-th couple of elements and push the add node to `newParSum` -/
+def blastCpopLayer (aig : AIG α) (iter_num : Nat)
+  (old_layer : AIG.RefVec aig (old_length * w)) (new_layer : AIG.RefVec aig (iter_num * w))
+  (hold : 2 * (iter_num - 1) < old_length) : AIG.RefVecEntry α ((old_length + 1)/2 * w) :=
```
Comment (hargoniX) [inline src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean]:
```suggestion
    (old_layer : AIG.RefVec aig (old_length * w)) (new_layer : AIG.RefVec aig (iter_num * w))
    (hold : 2 * (iter_num - 1) < old_length) : AIG.RefVecEntry α ((old_length + 1)/2 * w) :=
```

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean [hunk 46]
```diff
@@ -0,0 +1,290 @@
...
+    let extendedBits := res.vec
+    have := extractAndExtend_le_size
+    let x := x.cast (aig2 := res.aig) (by apply this)
+    blastCpopTree aig extendedBits (by omega)
+  else
+    if hw' : 0 < w then
+      ⟨aig, x⟩
+    else
+      let zero := blastConst aig (w := w) 0
+      ⟨aig, zero⟩
```
Comment (hargoniX) [inline src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean]:
```suggestion
  else if hw' : 0 < w then
    ⟨aig, x⟩
  else
    let zero := blastConst aig (w := w) 0
    ⟨aig, zero⟩
```

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Cpop.lean [hunk 47]
```diff
@@ -0,0 +1,280 @@
...
+public import Std.Tactic.BVDecide.Bitblast.BVExpr.Circuit.Lemmas.Operations.Sub
+public import Std.Tactic.BVDecide.Bitblast.BVExpr.Circuit.Lemmas.Operations.Append
+public import Std.Tactic.BVDecide.Bitblast.BVExpr.Circuit.Lemmas.Operations.Eq
+public import Std.Tactic.BVDecide.Bitblast.BVExpr.Circuit.Lemmas.Operations.ZeroExtend
+public import Std.Tactic.BVDecide.Bitblast.BVExpr.Circuit.Lemmas.Operations.Extract
+
+
+import Init.Data.BitVec.Bootstrap
+import Init.Omega
+@[expose] public section
```
Comment (hargoniX) [inline src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Cpop.lean]: I don't think this needs to be `@[expose] public section`, after all there is only one declaration from this module that is relevant. This header is just a backward compatibility thing we added to all files when the module system launched.

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Cpop.lean [hunk 48]
```diff
@@ -0,0 +1,280 @@
...
+  simp only [denote_blastZeroExtend, Nat.lt_one_iff, denote_blastExtract,
+    BitVec.getLsbD_extractAndExtendBit]
+  split
+  · split
+    · simp [hx, show idx = 0 by omega, show 0 < w by omega]
+    · simp [show 0 < w by omega, show w ≤ start by omega]
+  · simp [show ¬ idx = 0 by omega]
+
+theorem blastExtractAndExtendBit_denote_mem_prefix (aig : AIG α) (curr : Nat)
+    (xc : RefVec aig w) (hstart : _) :
```
Comment (hargoniX) [inline src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Cpop.lean]: Could you make the statement of `hstart` explicit maybe? I usually write `(hstart)` type of stuff when the variable is just passed directly to a function in the statement so everything is clear. But here it is used from within a theorem in the body and only then assigned a type. That seems maybe a bit too magical for me.

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Cpop.lean [hunk 49]
```diff
@@ -0,0 +1,280 @@
...
+      assign
+    ⟧ = ⟦aig, ⟨start, inv, hstart⟩, assign⟧ := by
+  apply denote.eq_of_isPrefix (entry := ⟨aig, start, inv, hstart⟩)
+  apply IsPrefix.of
+  · intros
+    apply extractAndExtendBit_decl_eq
+  · intros
+    apply extractAndExtendBit_le_size
+
+theorem denote_append (assign : α → Bool) (aig : AIG α) (currIdx w : Nat) (x : BitVec w)
```
Comment (hargoniX) [inline src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Cpop.lean]: Putting a theorem with `denote_append` in the general namespace that only talks about a very specific special case of appending seems wrong to me.

File: src/Init/Data/BitVec/Bitblast.lean (hunk 37 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean:2398]: Exactly, and in particular, folding infrastructure **and** specific infrastructure for the parallel-prefix-sum (which will be an instance of folding for addition).

File: src/Init/Data/BitVec/Bitblast.lean (hunk 26 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean:2403]: Yes - the reason why these definitions are designed like this is to mirror the bitblaster circuit as closely as possible to simplify its denotation.

File: src/Init/Data/BitVec/Bitblast.lean (hunk 18 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: fixed

File: src/Init/Data/BitVec/Bitblast.lean (hunk 19 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: remove snake case for variables everywhere

File: src/Init/Data/BitVec/Bitblast.lean (hunk 20 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: addressed

File: src/Init/Data/BitVec/Bitblast.lean (hunk 21 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: fixed

File: src/Init/Data/BitVec/Bitblast.lean (hunk 22 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: updated

File: src/Init/Data/BitVec/Bitblast.lean (hunk 27 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: fixed

File: src/Init/Data/BitVec/Bitblast.lean (hunk 29 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: fixed

File: src/Init/Data/BitVec/Bitblast.lean (hunk 30 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: I revised all the lemmas in the file and adhered to the 100c limit

File: src/Init/Data/BitVec/Bitblast.lean (hunk 28 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: replaced and preferred implication whenever possible.

File: src/Init/Data/BitVec/Bitblast.lean (hunk 31 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: fixed, one simp call only remains

File: src/Init/Data/BitVec/Bitblast.lean (hunk 32 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: fixed indentation

File: src/Init/Data/BitVec/Bitblast.lean (hunk 33 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: fixed

File: src/Init/Data/BitVec/Bitblast.lean (hunk 34 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean:2589]: fixed

File: src/Init/Data/BitVec/Bitblast.lean (hunk 35 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: this is as short as I could get it, and I checked with @bollu for the strategy: we could not find anything simpler. I am happy to write more comments  throughout the proof if that helps.

File: src/Init/Data/BitVec/Bitblast.lean (hunk 36 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: fixed

File: src/Init/Data/BitVec/Lemmas.lean (hunk 23 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: removed the `simp` tag. I needed this to simplify some casting in the base case of the inductive proofs and this felt like a useful lemma, but I am happy to remove it if worrying. Also, it is not used anymore.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 39 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: removed the cast from the lhs - it is now pre-processd in the proofs where I use the lemma

File: src/Init/Data/BitVec/Lemmas.lean (hunk 38 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: fixed

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean (hunk 40 above)
Comment (luisacicolini) [reply src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean]: fixed

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Cpop.lean (hunk 24 above)
Comment (luisacicolini) [reply src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Cpop.lean]: updated

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean (hunk 25 above)
Comment (luisacicolini) [reply src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean]: updated

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean (hunk 41 above)
Comment (luisacicolini) [reply src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean]: fixed

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean (hunk 42 above)
Comment (luisacicolini) [reply src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean]: addressed and replaced with langrang

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean (hunk 43 above)
Comment (luisacicolini) [reply src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean]: addressed everywehre in the file

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean (hunk 44 above)
Comment (luisacicolini) [reply src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean]: addressed

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean (hunk 45 above)
Comment (luisacicolini) [reply src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean]: addressed

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean (hunk 46 above)
Comment (luisacicolini) [reply src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean]: done

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Cpop.lean (hunk 47 above)
Comment (luisacicolini) [reply src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Cpop.lean]: removed

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Cpop.lean (hunk 48 above)
Comment (luisacicolini) [reply src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Cpop.lean]: done

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Cpop.lean (hunk 49 above)
Comment (luisacicolini) [reply src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Cpop.lean]: should be fixed by the removal of public module, also renamed the lemma to specify it's not a generic append

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean [hunk 50]
```diff
@@ -0,0 +1,283 @@
...
+    let res := blastExtractAndExtendBit aig x idx
+    let aigRes := res.aig
+    let bv := res.vec
+    have := extractAndExtendBit_le_size aig x idx
+    let acc := acc.cast (aig2 := aigRes) this
+    let x := x.cast (aig2 := aigRes) this
+    let acc := acc.append bv
+    have hcast : w * (idx + 1) = w * idx + w := by simp [Nat.mul_add]
+    have acc := hcast ▸ acc
+    blastextractAndExtend (aigRes) (idx + 1) (x := x) (acc := acc) (by omega)
```
Comment (hargoniX) [inline src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean]:
```suggestion
    blastextractAndExtend aigRes (idx + 1) (x := x) (acc := acc) (by omega)
```

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean [hunk 51]
```diff
@@ -0,0 +1,283 @@
...
+/-- We extract one bit at a time from the initial vector and zero-extend them to width `w`,
+  appending the result to `acc` which eventually will have size `w * w`-/
+def blastextractAndExtend (aig : AIG α) (idx : Nat) (x : AIG.RefVec aig w)
+    (acc : AIG.RefVec aig (w * idx)) (hlt : idx ≤ w) : AIG.RefVecEntry α (w * w) :=
+  if hidx : idx < w then
+    let res := blastExtractAndExtendBit aig x idx
+    let aigRes := res.aig
+    let bv := res.vec
+    have := extractAndExtendBit_le_size aig x idx
+    let acc := acc.cast (aig2 := aigRes) this
```
Comment (hargoniX) [inline src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean]: Is passing the AIG explicitly here necessary? Type inference should be able to figure this out I would hope? Similar remarks apply below.

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean [hunk 52]
```diff
@@ -0,0 +1,283 @@
...
+    AIG.LawfulVecOperator.decl_eq (f := blastExtract)]
+  exact h1
+
+/-- We extract one bit at a time from the initial vector and zero-extend them to width `w`,
+  appending the result to `acc` which eventually will have size `w * w`-/
+def blastextractAndExtend (aig : AIG α) (idx : Nat) (x : AIG.RefVec aig w)
+    (acc : AIG.RefVec aig (w * idx)) (hlt : idx ≤ w) : AIG.RefVecEntry α (w * w) :=
+  if hidx : idx < w then
+    let res := blastExtractAndExtendBit aig x idx
+    let aigRes := res.aig
```
Comment (hargoniX) [inline src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean]: The fact that this is called `aigRes` as opposed to just `aig` makes the line seem potentially non-trivial to a reader when there is nothing special about this particular result than all others, could you make it just `aig`?

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean [hunk 53]
```diff
@@ -0,0 +1,283 @@
...
+  let res := blastExtract aig ⟨x, start⟩
+  let aig := res.aig
+  let extract := res.vec
+  -- zero-extend the extracted portion to have
+  let res := blastZeroExtend aig (newWidth := w) ⟨1, extract⟩
+  let aig := res.aig
+  let extend := res.vec
+  ⟨aig, extend⟩
+
+theorem extractAndExtendBit_le_size (aig : AIG α) (x : AIG.RefVec aig w) (start : Nat) :
```
Comment (hargoniX) [inline src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean]: Wrong naming scheme.

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean [hunk 54]
```diff
@@ -0,0 +1,283 @@
...
+
+/-- We extract one bit at a time from the initial vector and zero-extend them to width `w`,
+  appending the result to `acc` which eventually will have size `w * w`-/
+def blastextractAndExtend (aig : AIG α) (idx : Nat) (x : AIG.RefVec aig w)
+    (acc : AIG.RefVec aig (w * idx)) (hlt : idx ≤ w) : AIG.RefVecEntry α (w * w) :=
+  if hidx : idx < w then
+    let res := blastExtractAndExtendBit aig x idx
+    let aigRes := res.aig
+    let bv := res.vec
+    have := extractAndExtendBit_le_size aig x idx
```
Comment (hargoniX) [inline src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean]: For modularity it helps to define an explicit instance of LawfulOperator for `blastExtractAndExtendBit` and then just stick to the `AIG.LawfulOperator.le_size (f := ...)` pattern everywhere else. Similar remarks apply below.

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean [hunk 55]
```diff
@@ -0,0 +1,283 @@
...
+  dsimp only at hres
+  rw [← hres]
+  intros _ h1 _
+  rw [AIG.LawfulVecOperator.decl_eq (f := blastZeroExtend),
+    AIG.LawfulVecOperator.decl_eq (f := blastExtract)]
+  exact h1
+
+/-- We extract one bit at a time from the initial vector and zero-extend them to width `w`,
+  appending the result to `acc` which eventually will have size `w * w`-/
+def blastextractAndExtend (aig : AIG α) (idx : Nat) (x : AIG.RefVec aig w)
```
Comment (hargoniX) [inline src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean]:
```suggestion
def blastExtractAndExtend (aig : AIG α) (idx : Nat) (x : AIG.RefVec aig w)
```

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean [hunk 56]
```diff
@@ -0,0 +1,283 @@
+/-
+Copyright (c) 2026 Lean FRO, LLC. All rights reserved.
```
Comment (hargoniX) [inline src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean]: The copyright for both this and the lemmas file should be with the University of Cambridge or (if they don't require this) yourself should it not?

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Cpop.lean [hunk 57]
```diff
@@ -0,0 +1,277 @@
...
+theorem denote_blastExtractAndExtendBit (aig : AIG α) (xc : AIG.RefVec aig w)
+    (x : BitVec w) (start : Nat) (hx : ∀ (idx : Nat) (hidx : idx < w), ⟦aig, xc.get idx hidx, assign⟧ = x.getLsbD idx) :
+    ∀ (idx : Nat) (hidx : idx < w),
+      ⟦
+        (blastExtractAndExtendBit aig xc start).aig,
+        (blastExtractAndExtendBit aig xc start).vec.get idx hidx,
+        assign
+      ⟧ = (BitVec.extractAndExtendBit start w x).getLsbD idx := by
+  intros idx hidx
+  generalize hext: blastExtractAndExtendBit aig xc start = res
```
Comment (hargoniX) [inline src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Cpop.lean]:
```suggestion
  generalize hext : blastExtractAndExtendBit aig xc start = res
```

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Cpop.lean [hunk 58]
```diff
@@ -0,0 +1,277 @@
...
+  rw [RefVec.get_append]
+  split
+  · rw [blastExtractAndExtendBit_denote_mem_prefix (xc := xc)]
+    apply hacc
+    simp only [RefVec.get_cast, Ref.cast_eq]
+    apply acc.hrefs (i := idx)
+  · rw [BitVec.getLsbD_extractAndExtend (by omega)]
+    have h := Nat.div_eq_of_lt_le (k := currIdx) (m := idx) (n := w)
+              (by rw [Nat.mul_comm]; omega)
+              (by rw [Nat.add_mul, Nat.mul_comm currIdx w]; omega)
```
Comment (hargoniX) [inline src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Cpop.lean]:
```suggestion
    have h := Nat.div_eq_of_lt_le (k := currIdx) (m := idx) (n := w)
      (by rw [Nat.mul_comm]; omega)
      (by rw [Nat.add_mul, Nat.mul_comm currIdx w]; omega)
```

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean (hunk 51 above)
Comment (luisacicolini) [reply src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean]: removed

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean (hunk 52 above)
Comment (luisacicolini) [reply src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean]: done

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean (hunk 53 above)
Comment (luisacicolini) [reply src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean]: renamed

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean (hunk 54 above)
Comment (luisacicolini) [reply src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean]: done and created a `target` type and a `go` for every operation

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean (hunk 55 above)
Comment (luisacicolini) [reply src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean]: done

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Cpop.lean (hunk 57 above)
Comment (luisacicolini) [reply src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Cpop.lean]: done

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Cpop.lean (hunk 58 above)
Comment (luisacicolini) [reply src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/Cpop.lean]: done

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean (hunk 56 above)
Comment (luisacicolini) [reply src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean]: updated to Cam

File: src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean [hunk 59]
```diff
@@ -0,0 +1,344 @@
...
+/-- Extend all the  bits in the input BitVec w `x` to have width `w`,
+  then construct the parallel-prefix-sum circuit. -/
+def blastCpop (aig : AIG α) (x : AIG.RefVec aig w) : AIG.RefVecEntry α w :=
+  if hw : 1 < w then
+    let res := blastExtractAndExtend aig (outWidth := w * w) ⟨x, by rfl⟩
+    let aig := res.aig
+    let extendedBits := res.vec
+    blastCpopTree aig ⟨extendedBits, by omega⟩
+  else if hw' : 0 < w then
+      ⟨aig, x⟩
```
Comment (hargoniX) [inline src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean]:
```suggestion
    ⟨aig, x⟩
```

Comment (hargoniX) [inline src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Impl/Operations/Cpop.lean]:
```suggestion
    ⟨aig, x⟩
```
